US05498630
A mixture of 90% ethyl bromopyruvate (54.2 g, 0.25 mol) and thiourea (20 g, 0.263 mol) in 500 mL absolute ethanol was heated at reflux for 1 h and then stirred at ambient temperature for 2 h. Ethanol was removed in vacuo and the residue was suspended in ice-water and neutralized with solid potassium carbonate until basic. The solid was filtered, washed thoroughly with water and air-dried to give 42 g of ethyl-2-amino-4-thiazolecarboxylate.

reactant | ethyl bromopyruvate | 0.25 mol, 54.2 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | thiourea | 0.263 mol, 20 g | NC(=S)N | CH4N2S
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | ethyl-2-amino-4-thiazolecarboxylate | 42 g | C(C)OC(=O)C=1N=C(SC1)N | C6H8N2O2S
